US04546113
Methyl 3-(p-Cyanophenyl)-2-(p-cyanobenzoyl)propionate
Methyl p-cyanobenzoylacetate (17.77 g, 0.087 mole) and p-cyanobenzyl bromide (17.16 g, 0.087 mole) were combined in 525 ml DMF under N2. K2CO3 (12.1 g, 0.087 mole) was added, the slurry stirred 1.5 hours and finally poured into a mixture of 2.5 liters H2O and 0.5 liter ethyl acetate. The organic layer was separated, washed with fresh H2O and then brine, stripped to dryness, and the residue slurried in ether to yield title product: 14.83 g (53.6%); m.p. 154°-157°; tlc (4:1 toluene:ethyl acetate) Rf 0.44.

reactant | Methyl p-cyanobenzoylacetate | 0.087 mole, 17.77 g | C(#N)C1=CC=C(C(=O)CC(=O)OC)C=C1 | C11H9NO3
reactant | p-cyanobenzyl bromide | 0.087 mole, 17.16 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | K2CO3 | 0.087 mole, 12.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 2.5 liters | O | H2O
solvent | DMF | 525 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 0.5 liter | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(p-Cyanophenyl)-2-(p-cyanobenzoyl)propionate | C(#N)C1=CC=C(C=C1)CC(C(=O)OC)C(C1=CC=C(C=C1)C#N)=O | C19H14N2O3
